US05849757
1-Cyclobutenecarboxylic acid ethyl ester
To a solution of 3.2425 g (33.09 mmol) of 1-cyclobutenecarboxylic acid in 60 ml of dimethylformamide were added 12 ml (150 mmol) of ethyl iodide and 5.53 g (40 mmoL) of potassium carbonate, followed by 20 hours of stirring at room temperature. The reaction solution was poured into water and extracted with ether. The organic layer was washed with water and saturated brine and then dried over anhydrous sodium sulfate. By evaporating the solvent, 4.5267 g of the title compound was obtained as a mixture with ethyl iodide and ether.

reactant | 1-cyclobutenecarboxylic acid | 33.09 mmol, 3.2425 g | C1(=CCC1)C(=O)O | C5H6O2
reactant | ethyl iodide | 150 mmol, 12 ml | C(C)I | C2H5I
reactant | potassium carbonate | 5.53 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 1-Cyclobutenecarboxylic acid ethyl ester | 4.5267 g | C(C)OC(=O)C1=CCC1 | C7H10O2
